US06635633B2
C. 5-Chloro-2-methyl-3-piperidin-4-yl-1H-indole
4-(5-Chloro-2-methyl-1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (6.2 g, 107.8 mmol) was set stirring in 1:1 TFA/CH2Cl2. After 45 min the mixture was evaporated and the golden oil brought up in Et2O. A solid formed and was filtered, washed with Et2O and air dried to give 6.2 g (95%) of a white solid as a TFA salt. MS (electrospray): exact mass calculated for C14H17ClN2, 248.11; m/z found, 249.1 [M++H].

reactant | 4-(5-Chloro-2-methyl-1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 107.8 mmol, 6.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(NC2=CC=C(C=C12)Cl)C | C19H25ClN2O2
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-Chloro-2-methyl-3-piperidin-4-yl-1H-indole | 6.2 g, 95% | ClC=1C=C2C(=C(NC2=CC1)C)C1CCNCC1 | C14H17ClN2
